* TestBench: analogcoder_pro_p05_amplifier_full_testbench
* Circuit: analogcoder_pro_p05_amplifier
* Category: full
*
.OPTIONS POST=2 PROBE

* AnalogCoder-Pro p5: A single-stage cascode amplifier with two NMOS transistors provides a single-ended output through a resistive load R
* Source: analogcoder\AnalogCoderPro-master\sample_design\p5\p5.py
* AnalogCoder-Pro type: Amplifier
* Inputs: Vin, Vbias
* Outputs: Vout

.MODEL nmos NMOS (LEVEL=1 KP=0.0001 VTO=0.5)

Vdd Vdd 0 5
Vbias Vbias 0 3
Vin Vin 0 DC 1.5 AC 1n
Rload Vout Vdd 10k
M1 Drain_M1 Vin 0 0 nmos W=5e-05 L=1e-06
M2 Vout Vbias Drain_M1 Drain_M1 nmos W=5e-05 L=1e-06

.OP
.AC DEC 100 1 1G

.TEMP 27.0
.TRAN 1n 50u 0

.END